US04065504
U.S. Pat. No. 3,855,306 discloses methylation of 5-hydroxyvanillin (initially prepared from vanillin by bromination and subsequent hydrolysis) with dimethyl sulfate in the presence of an alkali carbonate in an organic medium such as acetone. 3,4,5,-Trimethoxybenzaldehyde in yields of about 94% are obtained in this method, but the reaction is slow and operating with organic solvents presents disadvantages of operation and cost.

reactant | 5-hydroxyvanillin | OC=1C(=C(C=C(C=O)C1)OC)O | C8H8O4
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | carbonate | C([O-])([O-])=O
solvent | acetone | CC(=O)C | C3H6O
product | 3,4,5,-Trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
